US08580971B2
Under protective gas atmosphere, a mixture consisting of 30.0 g (0.17 mol) of 4-chloro-3-fluorophenylboronic acid and 29.7 g (0.16 mol) of 2-bromo-4-fluoroaniline in 170 ml of toluene and 17 ml of ethanol is treated with 3.6 g (0.003 mol) of tetrakis(triphenylphosphine)palladium(0) and stirred for 16 h at 80° C. After addition of 200 ml of toluene and 200 ml of water, the organic phase is separated off, dried over magnesium sulphate and concentrated in vacuum. Column chromatography (petroleum ether/acetone 4:1) yields 26.1 g (70% of theory) of 4′-chloro-5,3′-difluorobiphenyl-2-yl-amine with a logP (pH 2.3) of 3.18.

reactant | 4-chloro-3-fluorophenylboronic acid | 0.17 mol, 30.0 g | ClC1=C(C=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | 2-bromo-4-fluoroaniline | 0.16 mol, 29.7 g | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | water | 200 ml | O | H2O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 17 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.003 mol, 3.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4′-chloro-5,3′-difluorobiphenyl-2-yl-amine | 26.1 g, 70% | ClC1=C(C=C(C=C1)C1=C(C=CC(=C1)F)N)F | C12H8ClF2N
